US04659516
The procedure described in the last paragraph of Example 6 was repeated except that (7-N-methylcarbamoylheptyl)triphenylphosphonium bromide (prepared from 8-bromo-N-methyloctanamide and triphenylphosphine by a similar process to that described in the last part of Example 22) was used in place of (9-carboxynonyl)triphenylphosphonium bromide. The hydrogenation process described in the second paragraph of Example 6 was then repeated using the 9-(3-benzyloxy-17β-hydroxyoestra-1,3,5(10)trien-7α-yl)-N-methylnon-8-enamide thus obtained as starting material, and there was thus obtained as an oil 9-(3,17β-dihydroxyoestra-1,3,5(10)-trien-7α-yl)-N-methyl-nonanamide, the structure of which was confirmed by proton magnetic resonance and mass spectroscopy.

reactant | 8-bromo-N-methyloctanamide | BrCCCCCCCC(=O)NC | C9H18BrNO
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (9-carboxynonyl)triphenylphosphonium bromide | [Br-].C(=O)(O)CCCCCCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 9-(3-benzyloxy-17β-hydroxyoestra-1,3,5(10)trien-7α-yl)-N-methylnon-8-enamide | C(C1=CC=CC=C1)OC1=CC=2C[C@H]([C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3C2C=C1)O)C=CCCCCCCC(=O)NC | C35H47NO3
product | 9-(3,17β-dihydroxyoestra-1,3,5(10)-trien-7α-yl)-N-methyl-nonanamide | OC1=CC=2C[C@H]([C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3C2C=C1)O)CCCCCCCCC(=O)NC | C28H43NO3
